Implementing a TSPC Flipflop using 180nm technology - Modifications required in (4) Lines

.include "TSMC_180nm.txt"
.param SUPPLY = 1.8
.param LAMBDA = 0.09u
.param width_N = {5 * LAMBDA} ; Vary the width (1)
.param width_P = {2 * width_N} ; Assuming ratio of mobilites is 2, change it (2)
.global gnd vdd

.subckt Inverter in out high low
    M1 high in out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M2 out in low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends Inverter

.subckt HighLevelLatchElement in out clk high low
    M1 high in out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M2 out clk inter inter CMOSN W={2*width_N} L={2*LAMBDA} ; Reduced the effect of Body effect
    + AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
    M3 inter in low low CMOSN W={2*width_N} L={2*LAMBDA}
    + AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
.ends HighLevelLatchElement

.subckt TSPC_Latch_HighLevel in out clk high low
    XMaster in inter clk high low HighLevelLatchElement
    XSlave inter out clk high low HighLevelLatchElement
.ends TSPC_Latch_HighLevel

* Equate path resistances in sizing to inverter
.subckt LowLevelLatchElement in out clk high low
    M1 high in inter high CMOSP W={2*width_P} L={2*LAMBDA}
    + AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
    M2 inter clk out inter CMOSP W={2*width_P} L={2*LAMBDA} ; Reduced the effect of Body effect
    + AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
    M3 out in low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends LowLevelLatchElement

.subckt TSPC_Latch_LowLevel in out clk high low
    XMaster in inter clk high low LowLevelLatchElement
    XSlave inter out clk high low LowLevelLatchElement
.ends TSPC_Latch_LowLevel

* Repeater Tradeoff - Rise and Fall times vs C to Q delay
.subckt TSPC_FF in out clk high low
    XMaster in inter1 clk high low TSPC_Latch_LowLevel
    XInverter1 inter1 inter vdd gnd Inverter
    XSlave inter inter2 clk high low TSPC_Latch_HighLevel
    XInverter2 inter2 out vdd gnd Inverter
.ends TSPC_FF

* .subckt InverterLoad in out high low
*     M1 high in out high CMOSP W={20*LAMBDA} L={2*LAMBDA}
*     + AS={5*20*LAMBDA*LAMBDA} PS={10*LAMBDA+2*20*LAMBDA} AD={5*20*LAMBDA*LAMBDA} PD={10*LAMBDA+2*20*LAMBDA}
*     M2 out in low low CMOSN W={10*LAMBDA} L={2*LAMBDA}
*     + AS={5*10*LAMBDA*LAMBDA} PS={10*LAMBDA+2*10*LAMBDA} AD={5*10*LAMBDA*LAMBDA} PD={10*LAMBDA+2*10*LAMBDA}
* .ends InverterLoad

* Input source description (square waveform)
* vin in+ in- pulse VLow VHigh delay rise-time fall-time on-period time-period
Vdd vdd gnd 'SUPPLY'
VClk clk_line gnd pulse SUPPLY 0 0 50p 50p 1ns 2ns ; No Skew Currently, add a skew for practical measurements (3)
VD D gnd pulse 0 SUPPLY 0 50p 50p 2ns 4ns ; No Skew Currently, add a skew for practical measurements (4)

* Load 
XInverterL1 Q temp vdd gnd Inverter
XInverterL2 Q temp2 vdd gnd Inverter
* XInverterL Q temp vdd gnd InverterLoad
* CLoad Q gnd 10f

XFlipFlop D Q clk_line vdd gnd TSPC_FF

.measure tran trise
+ TRIG V(Q) VAL = 'SUPPLY / 10' RISE = 1
+ TARG V(Q) VAL = '9 * SUPPLY / 10' RISE = 1

.measure tran tfall
+ TRIG V(Q) VAL = '9 * SUPPLY / 10' FALL = 1
+ TARG V(Q) VAL = 'SUPPLY / 10' FALL = 1

.measure tran delay param = '(trise + tfall) / 2'

.measure tran tcqrise
+ TRIG V(clk_line) VAL = 'SUPPLY / 2' RISE = 1
+ TARG V(Q) VAL = 'SUPPLY / 2' RISE = 1

.measure tran tcqfall
+ TRIG V(clk_line) VAL = 'SUPPLY / 2' RISE = 2
+ TARG V(Q) VAL = 'SUPPLY / 2' FALL = 1

.measure tran tcq param = '(tcqrise + tcqfall) / 2'

.tran 1ps 5ns

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3
set ybrushwidth = 3

let clock = 'clk_line + 4'
let input = 'D + 2'
let output = 'Q'
plot clock input output

.endc

.end